US04886814
N-[2-(4-Aminocarbonylmethoxyphenyl)-1-methylethyl]-2-hydroxy-2-(3-chlorophenyl)morpholine
2.03 g (4.76 mmol) of N-[2-(4-carbomethoxymethoxyphenyl)-1-methylethyl]-2-hydroxy-2-(3-chlorophenyl)morpholine is dissolved in 20 ml of ammonia-saturated methanol and stirred for 24 hours at ambient temperature. The mixture is then evaporated down and the evaporation residue is purified by column chromatography on silica gel (eluant: ethyl acetate/cyclohexane=3:1).

reactant | N-[2-(4-carbomethoxymethoxyphenyl)-1-methylethyl]-2-hydroxy-2-(3-chlorophenyl)morpholine | 4.76 mmol, 2.03 g | C(=O)(OC)COC1=CC=C(C=C1)CC(C)N1CC(OCC1)(C1=CC(=CC=C1)Cl)O | C22H26ClNO5
reactant | ammonia | 20 ml | N | H3N
product | N-[2-(4-Aminocarbonylmethoxyphenyl)-1-methylethyl]-2-hydroxy-2-(3-chlorophenyl)morpholine | NC(=O)COC1=CC=C(C=C1)CC(C)N1CC(OCC1)(C1=CC(=CC=C1)Cl)O | C21H25ClN2O4
